US08017604B2
Step 4: 2-Phenyl-imidazo[1,2-a]pyridin-7-ylamine
Trifluoroacetic acid (30 ml) was added to a solution of (2-phenyl-imidazo[1,2-a]pyridin-7-yl)-carbamic acid tert-butyl ester (4.81 g, 15 mmol) in CH2Cl2 (30 ml), and the mixture was stirred at r.t. overnight. The mixture was then washed (water, 2×50 ml), dried (Na2SO4), and the solvent was evaporated. The title compound (2.25 g, 73%) was obtained from the residue by column chromatography (silica gel, CH2Cl2:MeOH=100:0-60:40). MS (m/e)=210.1 [M+H+].

reactant | Trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (2-phenyl-imidazo[1,2-a]pyridin-7-yl)-carbamic acid tert-butyl ester | 15 mmol, 4.81 g | C(C)(C)(C)OC(NC1=CC=2N(C=C1)C=C(N2)C2=CC=CC=C2)=O | C18H19N3O2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-Phenyl-imidazo[1,2-a]pyridin-7-ylamine | 2.25 g, 73% | C1(=CC=CC=C1)C=1N=C2N(C=CC(=C2)N)C1 | C13H11N3
